US07074800B1
6,7-Dimethoxy-3,4-dihydroquinazolin-4-one (290 mg, 1.4 mmol) was suspended in thionyl chloride (5 ml) and DMF (2 drops) and heated at reflux for 2 hours. The thionyl chloride was evaporated under vacuum and the residue azeotroped with toluene three times to give 4-chloro-6,7-dimethoxyquinazoline. A mixture of the crude 4-chloro-6,7-dimethoxyquinazoline, potassium carbonate (970 mg, 7 mmol) and 7-hydroxyquinoline (235 mg, 1.62 mmol) in DMF (10 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature overnight. The reaction mixture was treated with 1M aqueous sodium hydroxide solution and stirred at ambient temperature for a few minutes. The reaction mixture was extracted with ethyl acetate (×4) and the organic extracts washed with water and brine. The organic extracts were dried (MgSO4), filtered and the solvent removed under vacuum. The residue was triturated with ethyl acetate and then recrystallised from hot ethyl acetate to give 6,7-dimethoxy-4-(quinolin-7-yloxy)quinazoline (110 mg, 24%) as a white solid.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | potassium carbonate | 7 mmol, 970 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxyquinoline | 1.62 mmol, 235 mg | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6,7-dimethoxy-4-(quinolin-7-yloxy)quinazoline | 110 mg, 24% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C2C=CC=NC2=C1 | C19H15N3O3
